US08022062B2
Under nitrogen atmosphere, add potassium hydroxide (138 mg, 2.46 mmol) to a stirred solution of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (375 mg, 0.97 mmol) in methanol (10 mL). Heat under reflux for 2 h then add further potassium hydroxide (159 mg, 2.83 mmol) and continue heating under reflux for another 6 h. Cool the reaction mixture and add dropwise via cannula a solution of 5-(3-chloropropyl)-3,3-dimethyl-1,3-dihydro-indol-2-one (245 mg, 1.03 mmol) in methanol (10 mL). Stir at ambient temperature overnight then heat at 50° C. for 5 h. Add potassium iodide (186 mg, 1.12 mmol) to the reaction mixture and then heat under reflux for 5 h. Concentrate in vacuo and partition the residue between water (100 mL) and EtOAc (50 mL). Extract the aqueous phase with EtOAc (2×50 mL). Wash the combined extracts with brine (50 mL), dry over MgSO4, filter and concentrate in vacuo to obtain the crude mixture as a yellow oil. Dilute this oil with dichloromethane then re-concentrate in vacuo and repeat until a solid remains. Dry the solid in a vacuum oven to give 3-tert-butoxycarbonyl-7-chloro-6-[3-(3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow solid (481 mg) that was used without further purification. MS (ES+) m/z: 537 (M+Na)+.

reactant | potassium hydroxide | 2.46 mmol, 138 mg | [OH-].[K+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.97 mmol, 375 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | potassium hydroxide | 2.83 mmol, 159 mg | [OH-].[K+]
reactant | 5-(3-chloropropyl)-3,3-dimethyl-1,3-dihydro-indol-2-one | 1.03 mmol, 245 mg | ClCCCC=1C=C2C(C(NC2=CC1)=O)(C)C | C13H16ClNO
reactant | potassium iodide | 1.12 mmol, 186 mg | [I-].[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-tert-butoxycarbonyl-7-chloro-6-[3-(3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-propylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 481 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCCCC=2C=C1C(C(NC1=CC2)=O)(C)C | C28H35ClN2O3S
